US05684032
a) ethyl 5-benzyloxy-3-bromoindole-2-carboxylate
To a suspension of ethyl 5-benzyloxyindole-2-carboxylate (21.9 g, 74.0 mmol) in DMF (30 mL) was added dropwise over 10 min a solution of bromine (11.83 g, 74.0 mmol, 3.8 mL) in DMF (40 mL). After stirring an additional 20 min at room temperature, the solution was partitioned between 3 N HCl and ethyl acetate. The organic layer was washed sequentially with water, saturated aqueous sodium bicarbonate, water and saturated brine, then dried (MgSO4), filtered and concentrated to leave a white solid. The solid was recrystallized from ethyl acetate to provide the title compound (19.6 g, 71%). 1H NMR (400 MHz, CDCl3) δ 8.96 (br s, 1H), 7.52-7.30 (m, 6H), 7.15-7.10 (m, 2H), 5.14 (s, 2H), 4.46 (q, J=7.1 Hz, 2H), 1.46 (t, J=7.1 Hz, 3H).

reactant | ethyl 5-benzyloxyindole-2-carboxylate | 74.0 mmol, 21.9 g | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C18H17NO3
reactant | bromine | 74.0 mmol, 3.8 mL, 11.83 g | BrBr | Br2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | ethyl 5-benzyloxy-3-bromoindole-2-carboxylate | 19.6 g, 71% | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C(=O)OCC)Br | C18H16BrNO3
